US05958376
N,N'-bis[2,4,6-triiodo-3-(2-hydroxyacetamido)-5-(2,3-dihydroxypropylaminocarbonyl)-phenyl]urea
N,N'-bis[2,4,6-triiodo-3-(2-acetoxyacetamido)-5-(2,3-diacetoxypropylaminocarbonyl)phenyl]urea (0.88 g, 0.55 mmol) was dissolved in a mixture of methanol (10 ml) and 2M aqueous NaOH (2.5 ml). After stirring for 15 min at ambient temperature, pH was adjusted to 4 with a strongly acidic ion exchange resin, and, after filtration, evaporated to dryness. The residue was purified by preparative HPLC. Yield: 0.58 g (78%).

reactant | N,N'-bis[2,4,6-triiodo-3-(2-acetoxyacetamido)-5-(2,3-diacetoxypropylaminocarbonyl)phenyl]urea | 0.55 mmol, 0.88 g | IC1=C(C(=C(C(=C1NC(COC(C)=O)=O)I)C(=O)NCC(COC(C)=O)OC(C)=O)I)NC(=O)NC1=C(C(=C(C(=C1I)C(=O)NCC(COC(C)=O)OC(C)=O)I)NC(COC(C)=O)=O)I | C37H38I6N6O17
solvent | methanol | 10 ml | CO | CH4O
solvent | NaOH | 2M, 2.5 ml | [OH-].[Na+]
product | N,N'-bis[2,4,6-triiodo-3-(2-hydroxyacetamido)-5-(2,3-dihydroxypropylaminocarbonyl)-phenyl]urea | IC1=C(C(=C(C(=C1NC(CO)=O)I)C(=O)NCC(CO)O)I)NC(=O)NC1=C(C(=C(C(=C1I)C(=O)NCC(CO)O)I)NC(CO)=O)I | C25H26I6N6O11
